US07371772B2
To a solution of methyl 9-bromo-2,3,4,5-tetrahydro-1H-1-benzoazonin-6-carboxylate (2.0 g) in 1,2-dichloroethane (20 ml) were added propion aldehyde (1.87 g) and triacetoxy sodium borohydride (4.11 g) and the mixture was stirred overnight. Water was added and the mixture was extracted with ethyl acetate, after which it was washed with aqueous saturated sodium bicarbonate solution and saturated brine, and dried with magnesium sulfate. The solvent was distilled off under reduced pressure, and the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1) to give methyl 9-bromo-1-propyl-2,3,4,5-tetrahydro-1H-1-benzoazonin-6-carboxylate (2.15 g) as a yellow oily material.

reactant | methyl 9-bromo-2,3,4,5-tetrahydro-1H-1-benzoazonin-6-carboxylate | 2.0 g | BrC=1C=CC2=C(C=C(CCCCN2)C(=O)OC)C1 | C14H16BrNO2
reactant | propion aldehyde | 1.87 g | C(CC)=O | C3H6O
reactant | Water | O | H2O
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
product | methyl 9-bromo-1-propyl-2,3,4,5-tetrahydro-1H-1-benzoazonin-6-carboxylate | 2.15 g | BrC=1C=CC2=C(C=C(CCCCN2CCC)C(=O)OC)C1 | C17H22BrNO2
